subckt ao31_x1 A1 A2 A3 B X VDD VSS
AO31N30_PA0 (ao31_and_n A1 VDD VDD) pmos w=2u l=100n
AO31N30_PB0 (ao31_and_n A2 VDD VDD) pmos w=2u l=100n
AO31N30_PC0 (ao31_and_n A3 VDD VDD) pmos w=2u l=100n
AO31N30_NC0 (ao31_and_n A3 nmid2 VSS) nmos w=1u l=100n
AO31N30_NB0 (nmid2 A2 nmid1 VSS) nmos w=1u l=100n
AO31N30_NA0 (nmid1 A1 VSS VSS) nmos w=1u l=100n
AO31I30_P0 (ao31_and ao31_and_n VDD VDD) pmos w=2u l=100n
AO31I30_N0 (ao31_and ao31_and_n VSS VSS) nmos w=1u l=100n
AO31N20_PA0 (pmid_AO31N20_0 ao31_and VDD VDD) pmos w=2u l=100n
AO31N20_PB0 (ao31_or_n B pmid_AO31N20_0 VDD) pmos w=2u l=100n
AO31N20_NA0 (ao31_or_n ao31_and VSS VSS) nmos w=1u l=100n
AO31N20_NB0 (ao31_or_n B VSS VSS) nmos w=1u l=100n
AO31O0_P0 (X ao31_or_n VDD VDD) pmos w=2u l=100n
AO31O0_N0 (X ao31_or_n VSS VSS) nmos w=1u l=100n
ends ao31_x1
